US08389511B2
4-(2-{Benzyl[(benzyloxy)carbonyl]amino}ethyl)-6-{[[(3R)-1-(tert-butoxycarbonyl)piperidin-3-yl](isopropyl)amino]carbonyl}-2-methyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazine-2-carboxylic acid
To a solution of ethyl 4-(2-{[(benzyloxy)carbonyl]amino}ethyl)-6-{[[(3R)-1-(tert-butoxycarbonyl)piperidin-3-yl](isopropyl)amino]carbonyl}-2-methyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazine-2-carboxylate (1.00 g) in N,N-dimethylacetamide (2.7 ml) was added at 0° C. benzyl bromide (0.794 ml), and sodium hydride (193 mg), and the mixture was stirred for one hour. To the reaction solution were added 2N-aqueous sodium hydroxide solution (5.36 ml) and tetrahydrofuran (5.0 ml), and the mixture was stirred at room temperature for one hour. To the reaction solution was added a 5% aqueous potassium hydrogen sulfate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform /methanol=100/3, containing 5% acetic acid) to give the title compound (0.800 g).

reactant | ethyl 4-(2-{[(benzyloxy)carbonyl]amino}ethyl)-6-{[[(3R)-1-(tert-butoxycarbonyl)piperidin-3-yl](isopropyl)amino]carbonyl}-2-methyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazine-2-carboxylate | 1.00 g | C(C1=CC=CC=C1)OC(=O)NCCN1C(C(OC2=C1C=C(C(=C2)C(F)(F)F)C(=O)N(C(C)C)[C@H]2CN(CCC2)C(=O)OC(C)(C)C)(C(=O)OCC)C)=O | C37H47F3N4O9
reactant | benzyl bromide | 0.794 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | 193 mg | [H-].[Na+]
reactant | sodium hydroxide | 5.36 ml | [OH-].[Na+]
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
solvent | N,N-dimethylacetamide | 2.7 ml | CN(C(C)=O)C | C4H9NO
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
product | 4-(2-{Benzyl[(benzyloxy)carbonyl]amino}ethyl)-6-{[[(3R)-1-(tert-butoxycarbonyl)piperidin-3-yl](isopropyl)amino]carbonyl}-2-methyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazine-2-carboxylic acid | 0.800 g | C(C1=CC=CC=C1)N(CCN1C(C(OC2=C1C=C(C(=C2)C(F)(F)F)C(=O)N(C(C)C)[C@H]2CN(CCC2)C(=O)OC(C)(C)C)(C(=O)O)C)=O)C(=O)OCC2=CC=CC=C2 | C42H49F3N4O9
